US04507315
N-Methylisatoic anhydride (17.7 g) was added in portions to a stirred solution of 3-imidazol-1-ylpropylamine (12.5 g) in dioxan (150 ml) over a period of 15 minutes. Stirring was continued for 40 minutes before the solution was evaporated in vacuo to give 2-methylamino-N-(3-imidazol-1-ylpropyl)benzamide (18.0 g), in the form of a buff coloured solid, m.p. 138°-141° C., after recrystallisation from isopropanol.

reactant | N-Methylisatoic anhydride | 17.7 g | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
reactant | 3-imidazol-1-ylpropylamine | 12.5 g | N1(C=NC=C1)CCCN | C6H11N3
solvent | dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 2-methylamino-N-(3-imidazol-1-ylpropyl)benzamide | 18.0 g | CNC1=C(C(=O)NCCCN2C=NC=C2)C=CC=C1 | C14H18N4O
